US04310685
To a mixture comprising 20.8 g of 2,2'-methylenebiscyclohexanone and 50 g of powdered anhydrous sodium carbonate, 100 ml of ethylene dichloride was added with stirring. To the resulting solution, a mixture comprising 47.5 g of 40% peracetic acid and 50 ml of ethylene dichloride was added dropwise at 20°-25° C. over a period of about 2 hours. Following stirring for another 3 hours, the reaction mixture was washed first with water, then with a saturated Mohr's salt solution to decompose unreacted peracetic acid, and extracted with ether. The extract was washed with 2% aqueous sodium carbonate once, then washed with saturated aqueous sodium chloride, and the organic phase was dried over anhydrous magnesium sulfate. Concentration of the dried product gave 20.5 g of crude 6,6'-methylenebis-(6-hexanolide). Recrystallizing the crude product from isopropyl ether gave 19.0 g (yield: 79%) of a white crystal of 6,6'-methylenebis-(6-hexanolide) melting at 108°-109° C.

reactant | 2,2'-methylenebiscyclohexanone | 20.8 g | C(C1C(CCCC1)=O)C1C(CCCC1)=O | C13H20O2
reactant | sodium carbonate | 50 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | peracetic acid | 47.5 g | C(C)(=O)OO | C2H4O3
solvent | ethylene dichloride | 50 ml | C(CCl)Cl | C2H4Cl2
solvent | ethylene dichloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | 6,6'-methylenebis-(6-hexanolide) | 20.5 g | C(C1CCCCC(=O)O1)C1CCCCC(=O)O1 | C13H20O4
